US04994569
A mixture of (5RS, 6RS)-6-phenyl-2-[4-(trifluoromethoxy)phenyl]-5,6-dihydro-4H-1,3-oxazin-5-ol (6 g) and phenyl isocyanate (2.4 g) in 1,2-dichloroethane (100 cc) is heated to a temperature in the region of 60° C. for 5 hours. After being cooled, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and the residue obtained is purified by chromatography on silica (0.063-0.2 mm; 200 g) contained in a column 3.5 cm in diameter, eluting in 20-cc fractions with an ethyl acetate/cyclohexane mixture (30:70 by volume). Fractions 4 to 8 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in diisopropyl ether (5 cc). (5RS, 6SR)-6-Phenyl-5-phenylcarbamoyloxy-2-[4-(trifluoromethoxy)phenyl]-5,6-dihydro-4H-1,3-oxazine (1.1 g), m.p. 128° C., is thereby obtained.

reactant | (5RS, 6RS)-6-phenyl-2-[4-(trifluoromethoxy)phenyl]-5,6-dihydro-4H-1,3-oxazin-5-ol | 6 g | C1(=CC=CC=C1)C1C(CN=C(O1)C1=CC=C(C=C1)OC(F)(F)F)O | C17H14F3NO3
reactant | phenyl isocyanate | 2.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | 1,2-dichloroethane | 100 cc | ClCCCl | C2H4Cl2
product | (5RS, 6SR)-6-Phenyl-5-phenylcarbamoyloxy-2-[4-(trifluoromethoxy)phenyl]-5,6-dihydro-4H-1,3-oxazine | 1.1 g | C1(=CC=CC=C1)C1C(CN=C(O1)C1=CC=C(C=C1)OC(F)(F)F)OC(NC1=CC=CC=C1)=O | C24H19F3N2O4
